US04604397
The starting material is prepared as follows: A mixture of 7.5 g 6-methoxythiochroman-3-one [J. Org. Chem. 34, 1566 (1969)], 5.8 g of methyl 3-(propylamino)-propionate and 0.8 ml of trifluoroacetic acid in 80 ml of toluene is heated under reflux for 22 hours in a Dean Stark apparatus. Additional 0.8 ml portions of trifluoroacetic acid are added after 2, 5, and 16 hours. The solvent is removed, the residue is taken up in ether and the product is extracted with 3N hydrochlorid acid. After neutralization the aqueous layers are extracted with ethyl acetate, the organic layer is dried and the solvent is removed. The product is crystallized from a small volume of methanol to afford 9-methoxy-4-propyl-1,2,3,5-tetrahydro-4H-[1]-benzothiopyrano[3,4-b]pyridin-1-one, m.p. 108°-110°.

reactant | 6-methoxythiochroman-3-one | 7.5 g | COC=1C=C2CC(CSC2=CC1)=O | C10H10O2S
reactant | methyl 3-(propylamino)-propionate | 5.8 g | C(CC)NCCC(=O)OC | C7H15NO2
reactant | trifluoroacetic acid | 0.8 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 9-methoxy-4-propyl-1,2,3,5-tetrahydro-4H-[1]-benzothiopyrano[3,4-b]pyridin-1-one | COC=1C=CC2=C(C1)C1=C(N(CCC1=O)CCC)CS2 | C16H19NO2S
